US04233302
C. N-[3-[5-[(Dimethylamino)methyl]-2-furanylmethoxy]propyl]-2-nitro-N'-[2-[(3-pyridinylmethyl)thio]ethyl]-1,1-ethenediamine
A mixture of N,N-dimethyl-5-[[3-[(1-methylthio-2-nitroethenyl)amino]propoxy]methyl]-2-furanmethanamine (0.7 g) and 2-[(3-pyridinylmethyl)thio]ethanamine (0.36 g) was heated at 98°-100° for 3 hr. The oily residue was chromatographed (silica/methanol-0.88 ammonia 79:1) and the appropriate eluate evaporated to dryness to give the title compound as a hemihydrate as an oil (0.52 g).

reactant | N,N-dimethyl-5-[[3-[(1-methylthio-2-nitroethenyl)amino]propoxy]methyl]-2-furanmethanamine | 0.7 g | CN(CC=1OC(=CC1)COCCCNC(=C[N+](=O)[O-])SC)C | C14H23N3O4S
reactant | 2-[(3-pyridinylmethyl)thio]ethanamine | 0.36 g | N1=CC(=CC=C1)CSCCN | C8H12N2S
product | N-[3-[5-[(Dimethylamino)methyl]-2-furanylmethoxy]propyl]-2-nitro-N'-[2-[(3-pyridinylmethyl)thio]ethyl]-1,1-ethenediamine | CN(C)CC1=CC=C(O1)COCCCNC(=C[N+](=O)[O-])NCCSCC=1C=NC=CC1 | C21H31N5O4S
